US07622492B2
Trifluoroacetic acid (15 mL) was added to a cooled (0° C.) solution of crude N′-(4-methoxy-phenyl)-N′-((1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (˜18.5 mmol) in dichloromethane (15 mL), and the solution was stirred at ˜0° C. for 15 min and then at room temperature for 2.5 h. The solvent was evaporated and the residue was dissolved in dichloromethane (150 mL) and washed with water (4×250 mL) until the pH of the aqueous washing was ˜5. The organic layer was washed with brine (150 mL), dried (magnesium sulfate), and then the flask was wrapped in aluminum and stored in a freezer overnight. The magnesium sulfate was filtered off, and the solvent was evaporated to give an orange/red semi-solid which was triturated with 10% dichloromethane/hexanes, filtered, and washed with hexanes. The solid was crushed, washed again with hexanes, and then dried under vacuum to give (4S,7R)-2-(4-methoxy-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (3.95 g, 72%) as a tan solid.

reactant | Trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N′-(4-methoxy-phenyl)-N′-((1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | ˜18.5 mmol | C(C)(C)(C)OC(=O)NN(C(=O)C1[C@H]2CC[C@@](C1=O)(C2(C)C)C)C2=CC=C(C=C2)OC | C23H32N2O5
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (4S,7R)-2-(4-methoxy-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 3.95 g, 72% | COC1=CC=C(C=C1)N1NC=2[C@@]3(CC[C@H](C2C1=O)C3(C)C)C | C18H22N2O2
